US05177087
1-Acetyl-4-(4-dimethylaminobenzoylmethyl)piperidine
A mixture of 1.84 g of 1-acetyl-4-(4-fluorobenzoylmethyl)piperidine and 6 ml of a 50% aqueous solution of dimethylamine was stirred at room temperature for 3 days and the reaction mixture was worked up as in Example 1 to give 1.8 g of colorless crystals melting at 136° C.

reactant | 1-acetyl-4-(4-fluorobenzoylmethyl)piperidine | 1.84 g | C(C)(=O)N1CCC(CC1)CC(C1=CC=C(C=C1)F)=O | C15H18FNO2
reactant | dimethylamine | CNC | C2H7N
product | 1-Acetyl-4-(4-dimethylaminobenzoylmethyl)piperidine | 1.8 g | C(C)(=O)N1CCC(CC1)CC(C1=CC=C(C=C1)N(C)C)=O | C17H24N2O2
